US04672138
A mixture of 5.0 g of 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxy-2-phenylbenzo[b]thiophene, 10 ml of boron trifluoride etherate and 20 ml of glacial acid is refluxed for 1 hour. The mixture is cooled, diluted with water and basified with dil sodium hydroxide solution. Extraction with dichloromethane followed by column chromatography over silica (50% dichloromethane in hexane) gives 1.45 g of 6,7-dichloro-5-methoxy-2-phenylbenzo[b]thiophene, mp 144°-145°.

reactant | 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxy-2-phenylbenzo[b]thiophene | 5.0 g | ClC=1C(=CC2=C(SC(C2O)C2=CC=CC=C2)C1Cl)OC | C15H12Cl2O2S
reactant | boron trifluoride etherate | 10 ml | B(F)(F)F.CCOCC
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 6,7-dichloro-5-methoxy-2-phenylbenzo[b]thiophene | 1.45 g | ClC=1C(=CC2=C(SC(=C2)C2=CC=CC=C2)C1Cl)OC | C15H10Cl2OS
